US05624543
2-(α-bromoisopropyl) anthraquinone.
A mixture of 0.95 g (3.8 mmol) 2-isopropylanthraquinone, 0.81 g (4.6 mmol) N-bromosuccinimide (NBS) and 6 mg benzoyl peroxide in 7 mL CCl4 was refluxed for 2 h under N2 with mild stirring. After cooling to room temperature, the solution was filtered through glass wool and then the CCl4 was removed under vacuum to yield a yellow liquid that solidified upon cooling. 1H-NMR showed the conversion to be complete and so the product was used without further purification.

reactant | 2-isopropylanthraquinone | 3.8 mmol, 0.95 g | C(C)(C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C17H14O2
reactant | N-bromosuccinimide | 4.6 mmol, 0.81 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 6 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 7 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(α-bromoisopropyl) anthraquinone | BrC(C)(C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C17H13BrO2
